US09024027B2
To a solution of methyl 2-(5-amino-1H-indol-1-yl)acetate (730 mg, 3.54 mmol) in pyridine (15 ml), methanesulfonyl chloride (418 μl, 5.36 mmol) was added, and the mixture was reacted for 2 hours at room temperature. The solvent was evaporated and the resulting crude was partitioned between 1N HCl and ethyl acetate; the aqueous phase was extracted with ethyl acetate (3×30 ml) and dried over sodium sulfate. The solvent was removed obtaining crude methyl 2-(5-(methylsulfonamido)-1H-indol-1-yl)acetate that was used in the next step without any additional purification (1 g, 3.54 mmol, quantitative yield). MS/ESI+ 283.3 [MH]+.

reactant | methyl 2-(5-amino-1H-indol-1-yl)acetate | 3.54 mmol, 730 mg | NC=1C=C2C=CN(C2=CC1)CC(=O)OC | C11H12N2O2
reactant | methanesulfonyl chloride | 5.36 mmol, 418 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-(5-(methylsulfonamido)-1H-indol-1-yl)acetate | quantitative yield | CS(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC(=O)OC | C12H14N2O4S
